US09382188B2
step 3) ethyl 3-(3-(hydroxymethyl)phenyl)hex-4-ynoate
A solution (5.0 mL) of tetrabutylammonium fluoride in THF was added to a solution of ethyl 3-(3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)hex-4-ynoate in THF (10 mL), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (181 mg) as a colorless oil.

reactant | tetrabutylammonium fluoride | 5.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 3-(3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)hex-4-ynoate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)C(CC(=O)OCC)C#CC | C31H36O3Si
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-(hydroxymethyl)phenyl)hex-4-ynoate | 181 mg | OCC=1C=C(C=CC1)C(CC(=O)OCC)C#CC | C15H18O3
